US05593984
Preparation of 6-(2-hydroxyethylthio)pyrrolo[1,2-a]pyrazine
2.5 g of 6-bromopyrrolo[1,2-a]pyrazine prepared in Preparation Example 7 was dissolved in 30 ml of acetonitrile; and 1 ml of 2-thioethanol was added thereto. The reaction mixture was refluxed for 12 hours, cooled to room temperature, poured into ice-water and then extracted with ethyl acetate (50 ml×3). The organic layer was concentrated to dryness under a reduced pressure. The residue was chromatographed over silica gel to obtain 1 g of title compound.

reactant | 6-bromopyrrolo[1,2-a]pyrazine | 2.5 g | BrC1=CC=C2N1C=CN=C2 | C7H5BrN2
reactant | 2-thioethanol | 1 ml | C(CS)O | C2H6OS
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 6-(2-hydroxyethylthio)pyrrolo[1,2-a]pyrazine | 1 g | OCCSC1=CC=C2N1C=CN=C2 | C9H10N2OS
